US07498440B2
3-bromopropyl 3-fluorophenyl ether
To a solution of 3-fluorophenol (0.040 mL, 0.448 mmol) in acetonitrile (4 mL) was added 1,3-dibromopropane (0.450 mL, 4.43 mmol) followed by Cs2CO3 (0.246 g, 0.756 mmol). The reaction mixture was stirred for 24 h and then concentrated under vacuum. The resulting residue was treated with H2O (4 mL) and extracted with DCM (8 mL). The organic layer was dried through a phase separator and concentrated under vacuum. The residue was taken up in DMSO and purified by preparatory HPLC (without TFA) to give the title compound (0.0137 g, 13.2%). EI-MS Rt (2.28 min).

reactant | 3-fluorophenol | 0.448 mmol, 0.040 mL | FC=1C=C(C=CC1)O | C6H5FO
reactant | 1,3-dibromopropane | 4.43 mmol, 0.450 mL | BrCCCBr | C3H6Br2
reactant | Cs2CO3 | 0.756 mmol, 0.246 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-bromopropyl 3-fluorophenyl ether | 0.0137 g, 13.2% | FC=1C=C(C=CC1)OCCCBr | C9H10BrFO
